*
.SUBCKT BSP16 1 2 3
* housing parasitics
LB 2 22 4.13E-09
LE 3 333 3.77E-09
LC 1 11 0.41E-09
CBCG 22 11 1.76E-13
CBEG 22 333 8.6E-14
CCEG 11 333 1.76E-14
Q1 11 22 333 QBSP16 AREA = 1
D1 11 22 DIODE
*
* The diode does not reflect a physical
* device but improves only modeling
* in the reverse mode of operation
*
.MODEL QBSP16 PNP
+(
+ IS = 1.668E-14
+ NF = 0.9925
+ ISE = 1.187E-14
+ NE = 1.45
+ BF = 72.69
+ IKF = 1.02
+ VAF = 300
+ NR = 1.001
+ ISC = 3.8E-15
+ NC = 1.515
+ BR = 4.032
+ IKR = 0.02433
+ VAR = 50
+ RB = 20
+ IRB = 1E-06
+ RBM = 0.01
+ RE = 0.55
+ RC = 0.4707
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.812E-11
+ VJE = 0.6708
+ MJE = 0.3409
+ TF = 1.5E-09
+ XTF = 22
+ VTF = 4
+ ITF = 0.19
+ PTF = 0
+ CJC = 1.486E-11
+ VJC = 0.9514
+ MJC = 0.4793
+ XCJC = 1
+ TR = 5E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.949
+)
*
.MODEL DIODE D
+(
+ IS = 2.441E-13
+ N = 1.027
+ BV = 1000
+ IBV = 0.001
+ RS = 220
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
+)
.ENDS
*